US04539416
In this example furfurylmercaptan and 2-ethyl-2-oxazoline are reacted to form N-furfurylthioethylpropionamide. Furfurylmercaptan (13.04 grams, 0.11 mols) is heated under nitrogen to 155° C. in a flask. 2-Ethyl-2-oxazoline (11.4 grams, 0.115 mols) is slowly added from a dropping funnel over a period of two hours. The mixture is post-reacted at 155° C. for an additional 11/2 hours. The product is isolated by distillation at reduced pressure: BP 136°-137° C. at 0.2 millimeters Hg. The spectral and elemental analyses correspond to those of the N-furfurylthioethylpropionamide mentioned above. Analysis for the crude reaction mixture by internal standard gas/liquid chromatography shows 1.7 weight percent 2-ethyl-2-oxazoline, 0.8 weight percent furfurylmercaptan and 95.8 weight percent N-(2-furfurylthioethyl)propionamide. This is a reaction yield based on starting materials of 96 percent.

reactant | furfurylmercaptan | C(C1=CC=CO1)S | C5H6OS
reactant | 2-ethyl-2-oxazoline | C(C)C=1OCCN1 | C5H9NO
product | N-furfurylthioethylpropionamide | C(C1=CC=CO1)SCCNC(CC)=O | C10H15NO2S
